US04071627
Utilizing the procedure of Example V, 2-oximino-3,4-dimethyltetrahydro-1,4-thiazin-5-one was reacted with methyl isocyanate in the presence of triethylamine to yield 3 g of 2-[O-(methylcarbamoyl)oximino]-3,4-dimethyltetrahydro-1,4-thiazin-5-one, m.p. 161°-163° C.

reactant | 2-oximino-3,4-dimethyltetrahydro-1,4-thiazin-5-one | N(O)=C1SCC(N(C1C)C)=O | C6H10N2O2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[O-(methylcarbamoyl)oximino]-3,4-dimethyltetrahydro-1,4-thiazin-5-one | 3 g | CNC(=O)ON=C1SCC(N(C1C)C)=O | C8H13N3O3S
